US08217065B2
C. 2-(2,6-Dichlorophenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester
To a solution of 3,4-diaminobenzoic acid methyl ester (3.32 g, 20 mmol) and 2,6-dichlorobenzaldehyde (3.5 g, 20 mmol) in DMF (20 mL)+water (2 mL) was added oxone (2.46 g, 4 mmol). The mixture was stirred at RT for 18 h then EtOAc was added. The mixture was washed with water and brine then was dried over sodium sulfate. The solvent was removed under reduced pressure to give the title compound as a yellow solid.

reactant | 3,4-diaminobenzoic acid methyl ester | 20 mmol, 3.32 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | 2,6-dichlorobenzaldehyde | 20 mmol, 3.5 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | water | 2 mL | O | H2O
reactant | oxone | 4 mmol, 2.46 g | OOS(=O)[O-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,6-Dichlorophenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C15H10Cl2N2O2
